US08247429B2
methyl 6-(3-methoxy-3-oxopropyl)-2-methyl-1H-benzimidazole-7-carboxylate
A solution of methyl 3-(acetylamino)-2-amino-6-(3-methoxy-3-oxopropyl)benzoate (490 mg, 1.66 mmol) in acetic acid (15 mL) was stirred with heating at 80° C. for 1 hr. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→15/85) to give the title compound (434 mg, yield 95%).

reactant | methyl 3-(acetylamino)-2-amino-6-(3-methoxy-3-oxopropyl)benzoate | 1.66 mmol, 490 mg | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)CCC(=O)OC)N | C14H18N2O5
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | methyl 6-(3-methoxy-3-oxopropyl)-2-methyl-1H-benzimidazole-7-carboxylate | 434 mg, yield 95% | COC(CCC=1C=CC2=C(NC(=N2)C)C1C(=O)OC)=O | C14H16N2O4
